US04206225
dl-cis-6a,7,8,9,10,10a-Hexahydro-2-hydroxy-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)-6H-dibenzo[b,d]pyran
To a solution of 1.0 g. of dl-7,8,9,10-tetrahydro-2-hydroxy-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)-6H-dibenzo[b,d]pyran in 75 ml. of ethanol is added 200 mg. of 5% palladium-on-carbon catalyst and the resulting mixture is hydrogenated at room temperature and 60 psig. (4.3 kg./cm2) until the theoretical amount of hydrogen is consumed. After filtering to remove the catalyst, the solvent was evaporated to provide the desired 6a,10a-cis compound.

reactant | 7,8,9,10-tetrahydro-2-hydroxy-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)-6H-dibenzo[b,d]pyran | OC1=CC2=C(OC(C3=C2CCCC3)(C)C)C=C1C(CCCC1=CC=CC=C1)C | C26H32O2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | cis-6a,7,8,9,10,10a-Hexahydro-2-hydroxy-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)-6H-dibenzo[b,d]pyran | OC1=CC2=C(OC([C@H]3[C@@H]2CCCC3)(C)C)C=C1C(CCCC1=CC=CC=C1)C | C26H34O2
